US06756378B2
To a stirred solution of [1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyl 4-iodophenyl sulfide (1.49 g, 3.56 mmol) in DMSO (16 mL) and MeOH (13 mL) was added El3N (1.09 mL, 7.84 mmol), Pd(OAc)2 (40 mg, 0.178 mmol), and 1,3-bis(diphenylphosphino)propane (73.4 mg, 0.178 mmol). To the stirred resulting mixture was induced CO gas for 5 min, and the m was stirred at 70° C. overnight. After cooling, the mixture was concentrated to a small volume. The residue was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure and the residue was chromatographed on silica-gel with n-hexane-EtOAc (5:1, v/v) as eluent to afford 1.16 g (93%) methyl 4-[tert-butoxycarbonyl)-2-pyrrolidinyl]methylthiobenzoate as an oil. 1H-NMR (400 MHz, CDCl3) δ1.51 and 1.47 (each s, 9H), 1.78-2.05 (br m, 4H) 2.77 (dt, J=10.8, 37.1 Hz, 1H), 3.34-3.58 (m, 3H), 3.89 (s, 3H), 4.03 (br d, J=27.3 Hz, 1H), 7.38 (d, J=7.3 Hz, 1H), 7.47 (d, J=7.3 Hz, 1H), 7.92 (br s, 1H); MS (FAB) m/z 352 (M++1).

reactant | [1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyl 4-iodophenyl sulfide | 3.56 mmol, 1.49 g | IC1=CC=C(C=C1)SCC1N(CCC1)C(=O)OC(C)(C)C | C16H22INO2S
reactant | 1,3-bis(diphenylphosphino)propane | 0.178 mmol, 73.4 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | DMSO | 16 mL | CS(=O)C | C2H6OS
solvent | MeOH | 13 mL | CO | CH4O
catalyst | Pd(OAc)2 | 0.178 mmol, 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methylthiobenzoate | COC(C1=CC=CC=C1)=S | C8H8OS
